US04977166
The A isomer of 1-[2-(3,4-dihydro-1(2H)-benzopyran-4-yl)ethyl]-4-(3,4-dimethoxyphenyl)piperazine dihydrochloride is prepared by following the procedure of Example 1 but starting with the A isomer of 4-(2-bromoethyl -3,4-dihydro-(2H)-benzopyran (0.86 g), 1-(3,4-dimethoxyphenyl)piperazine dihydrochloride (1.10 g) and then dry potassium carbonate (1.38 g) and potassium iodide (0.6 g) in 2-butanone (15 cc).

reactant | 2-bromoethyl -3,4-dihydro-(2H)-benzopyran | 0.86 g | BrCCC1OC2=C(CC1)C=CC=C2 | C11H13BrO
reactant | 1-(3,4-dimethoxyphenyl)piperazine dihydrochloride | 1.10 g | Cl.Cl.COC=1C=C(C=CC1OC)N1CCNCC1
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.6 g | [I-].[K+]
solvent | 2-butanone | 15 cc | CC(CC)=O | C4H8O
product | 1-[2-(3,4-dihydro-1(2H)-benzopyran-4-yl)ethyl]-4-(3,4-dimethoxyphenyl)piperazine dihydrochloride | Cl.Cl.O1CCC(C2=C1C=CC=C2)CCN2CCN(CC2)C2=CC(=C(C=C2)OC)OC | InChI=1S/C23H30N2O3.2ClH/c1-26-22-8-7-19(17-23(22)27-2)25-14-12-24(13-15-25)11-9-18-10-16-28-21-6-4-3-5-20(18)21;;/h3-8,17-18H,9-16H2,1-2H3;2*1H
